US09108939B2
C: 1-(Piperidin-4-yl)-1H-indazol-6-amine
tert-Butyl 4-(6-amino-1H-indazol-1-yl)piperidine-1-carboxylate (6.64 mmol, 2.1 g) was stirred at room temperature in dichloromethane (10 mL)/trifluoroacetic acid (10 mL) for 1 hour. The reaction mixture was concentrated under vacuum. The resulting residue was purified by SCX column to afford the title compound (1.05 g).

reactant | tert-Butyl 4-(6-amino-1H-indazol-1-yl)piperidine-1-carboxylate | 6.64 mmol, 2.1 g | NC1=CC=C2C=NN(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N4O2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(Piperidin-4-yl)-1H-indazol-6-amine | 1.05 g | N1CCC(CC1)N1N=CC2=CC=C(C=C12)N | C12H16N4
